US05576324
2-(t-Butoxycarbonyl)aminomethyl-5-iodo-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (610 mg) and cuprous cyanide (134 mg) were dissolved in dimethylformamide (30.5 ml), and stirred at 150° C. for 1 hour. After completion of the reaction, the solvent was distilled off, and the residue was purified by silica gel column chromatography (eluent=chloroform:methanol=70:1). As a result, 347 mg of 2-(t-butoxycarbonyl)aminomethyl-5-cyano-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one was obtained (73.7%). This compound was recrystallized from a solvent mixture of chloroform-n-hexane to obtain pale yellow powdery crystals (mp.: 200°-202° C. (dec.)).

reactant | 2-(t-Butoxycarbonyl)aminomethyl-5-iodo-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 610 mg | C(C)(C)(C)OC(=O)NCC1CC=2C(=C3C=CC(NC3=C(C2)I)=O)O1 | C17H19IN2O4
reactant | dimethylformamide | 30.5 ml | CN(C=O)C | C3H7NO
product | 2-(t-butoxycarbonyl)aminomethyl-5-cyano-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 347 mg | C(C)(C)(C)OC(=O)NCC1CC=2C(=C3C=CC(NC3=C(C2)C#N)=O)O1 | C18H19N3O4
